US08981084B2
1,4-Bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid (1.0 g, 3.03 mmol) was suspended in THF (5 mL) and pyridine (0.36 mL), DMF (0.1 mL) was added, followed by thionyl chloride (0.23 mL, 3.03 mmol). The reaction mixture was stirred at 40° C. for 4 h and then concentrated under reduced pressure. The crude product was dissolved in CH2Cl2 and transferred to a sealed tube. A saturated solution of ammonia in dioxane (10 mL) was added to the compound and the resulting reaction mixture was stirred at 40° C. for 2 h followed by room temperature stirring for 12 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in 1.5 N HCl. The aqueous layer was washed with diethyl ether and then basified with 1N sodium hydroxide solution. The organic product was extracted with CH2Cl2. The combined extracts were dried over anhydrous sodium sulfate, and concentrated under reduced pressure to get tert-butyl 3-carbamoylpiperazine-1-carboxylate (340 mg, yield 49%), which was carried through without further purification. 1H NMR (400 MHz, CDCl3) δ 6.70 (br s, 1H), 5.51 (br s, 1H), 4.06-4.03 (m, 1H), 3.77 (m, 1H), 3.37-3.33 (m, 1H), 3.11-2.95 (m, 3H), 2.81-2.76 (m, 1H), 1.47 (s, 9H).

reactant | 1,4-Bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 3.03 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 3.03 mmol, 0.23 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | pyridine | 0.36 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 3-carbamoylpiperazine-1-carboxylate | 340 mg, yield 49% | C(N)(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C10H19N3O3
